US06919331B2
2-(3-Isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-3-(3-methyl-butyl)-3H-benzoimidazole-5-carboxylic acid amide was prepared by the same procedure as 2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazole-5-carboxylic acid dimethylamide, except using ammonium hydroxide.

reactant | 2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazole-5-carboxylic acid dimethylamide | CN(C(=O)C1=CC2=C(N(C(=N2)CN2C(N(C3=C2C=CC=C3)C(C)C)=O)CCC(C)C)C=C1)C | C26H33N5O2
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 2-(3-Isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-3-(3-methyl-butyl)-3H-benzoimidazole-5-carboxylic acid amide | C(C)(C)N1C(N(C2=C1C=CC=C2)CC=2N(C1=C(N2)C=CC(=C1)C(=O)N)CCC(C)C)=O | C24H29N5O2
